datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][H:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14].[H:15][O:38][H:39],-2.493664
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C:6]([C:7]([H:18])([H:19])[H:20])([H:17])[C:5]1([H:15])[H:16])[H:10])([H:8])[H:9],123.177
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([C:3]([H:13])([H:14])[H:15])([O:7][O:8][H:19])[C:4]([H:16])([H:17])[O:5]1.[O:6][H:18],43.932
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22][C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:22](=[C:21]([H:24])[H:25])[C:23]([H:26])([H:27])[H:28])[H:11],3.93296
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:19](=[C:20]([H:22])[H:23])[H:21],1.21336
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]([H:19])[C:8]1([H:20])[H:21])[H:9],58.8689
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:13])[O:3]1)([H:9])([H:10])[H:11].[O:4][H:14],40.128744
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][H:9])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8],87.2364
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[O:25][H:26]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][O:25][H:26],-6.276
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]([S:12][H:14])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:13])([H:4])([H:5])[H:6].[S:11][S:12][H:14],-24.2672
[O:0][O:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:12])[H:13])([H:10])[H:11]>>[O:0]([O:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:12])[H:13])[H:11])[H:10],67.349848
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]([C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])([H:26])[H:27])[H:25]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:26])([H:8])([H:9])[H:10].[S:17]([C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])[H:25],28.0328
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([C:14]([O:15][O:16])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:16][O:15][C:14]([C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25],85.60464
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][O:15][H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:14][O:15][H:16],66.9984
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:8])([H:6])[H:7],20.92
